US07304161B2
To a round bottom flask equipped with magnetic stirring was added 3,5-dimethylbenzoic acid N-tert-butyl-N′-[3-(tert-butyldimethylsilyloxymethyl)-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carbonyl]-hydrazide (0.26 g, 0.48 mmol), THF (5.0 mL), and 1 M solution of tetrabutylammonium fluoride (TBAF) in THF (1.39 mL, 1.39 mmol). The mixture was stirred at room temperature for three hours. The THF was evaporated and the residue was taken up in ethyl acetate. This solution was washed once with water, once with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. The residue was triturated with hexane to give a white solid, 3,5-dimethylbenzoic acid N-tert-butyl-N′-(3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carbonyl)-hydrazide, (0.205 g, 0.48 mmol) in 100% yield. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 1.59 (s, 9H), 1.89 (d, 3H), 2.25 (s, 6H), 3.79 (m, 2H), 4.04 (m, 1H), 4.18 (m, 1H), 4.33 (m, 1H), 6.33 (dd, 1H), 6.56 (dd, 1H), 7.03 (s, 1H), 7.12 (s, 2H), 9.51 (s, 1H); TLC Rf=0.03 (ether/hexane).

reactant | 3,5-dimethylbenzoic acid N-tert-butyl-N′-[3-(tert-butyldimethylsilyloxymethyl)-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carbonyl]-hydrazide | 0.48 mmol, 0.26 g | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCC(O2)CO[Si](C)(C)C(C)(C)C)C=C1)C)C(C1=CC(=CC(=C1)C)C)=O | C30H44N2O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.39 mmol, 1.39 mL | C1CCOC1 | C4H8O
product | 3,5-dimethylbenzoic acid N-tert-butyl-N′-(3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carbonyl)-hydrazide | 0.48 mmol, 0.205 g, 100% yield | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCC(O2)CO)C=C1)C)C(C1=CC(=CC(=C1)C)C)=O | C24H30N2O5
